US04977153
4.56 of 4-(Benzyloxycarbonylamino)-N-(1H-indol-5-yl)butanamide, 1.1 g palladium (10%) on charcoal and 100 ml methanol are added together at room temperature in the presence of hydrogen until about 90% of theoretical hydrogen uptake is obtained (maximum uptake). The suspension is filtered through talc and the solvent evaporated off giving an oily residue of 4-amino-N-(1H-indol-5-yl)butanamide which is recrystallised from methanol/ether (M.P. 124°-136°).

reactant | 4-(Benzyloxycarbonylamino)-N-(1H-indol-5-yl)butanamide | C(C1=CC=CC=C1)OC(=O)NCCCC(=O)NC=1C=C2C=CNC2=CC1 | C20H21N3O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 1.1 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 4-amino-N-(1H-indol-5-yl)butanamide | NCCCC(=O)NC=1C=C2C=CNC2=CC1 | C12H15N3O
